US06255496B1
N-[Bis-(4-chlorophenyl)methyl]-4-(4,4,4-trifluoro-3-oxo-1-buty)phenoxyacetamide
A solution of 4-(4,4,4trifluoro-3-oxo-1-butyl)phenoxyacetic acid (0.374 g, 1.35 mmol) in dichloromethane (10 ml) was treated with oxalyl chloride (0.17 mL 2.03 mmol) and a trace of N,N-dimethylformamide. After 30 min at 22° C., the solvent and excess reagent were evaporated under reduced pressure and the residual oil obtained was dissolved in anhydrous tetrahydrofuran (10 ml). This solution was then added dropwise to a vigorously stirred solution of p-chlorobenzhydrylamine hydrochloride (0.39 g, 1.35 mmol) in a mixture of tetrahydrofuran (10 ml) and 40% aqueous sodium acetate (10 ml). After 30 min at 22° C., the reaction mixture was diluted with ethyl acetate, washed with water, brine and dried. Evaporation of the solvent under reduced pressure gave a solid which was chromatographed on silica gel. Elution with a mixture of toluene and ethyl acetate (8:2) gave 0.603 g (87%) of the title product as white crystals: mp 145-146° C.

reactant | 4-(4,4,4trifluoro-3-oxo-1-butyl)phenoxyacetic acid | 1.35 mmol, 0.374 g | FC(C(CCC1=CC=C(OCC(=O)O)C=C1)=O)(F)F | C12H11F3O4
reactant | oxalyl chloride | 2.03 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | p-chlorobenzhydrylamine hydrochloride | 1.35 mmol, 0.39 g | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium acetate | 10 ml | C(C)(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[Bis-(4-chlorophenyl)methyl]-4-(4,4,4-trifluoro-3-oxo-1-buty)phenoxyacetamide | 0.603 g, 87% | ClC1=CC=C(C=C1)C(NC(COC1=CC=C(C=C1)CCC(C(F)(F)F)=O)=O)C1=CC=C(C=C1)Cl | C25H20Cl2F3NO3
